* Schematics Netlist *



V_VDS         $N_0001 0 10V
V_VGS         $N_0002 0 0V
M_M1         $N_0001 $N_0002 0 0 MbreakN-X  
+ L=1u  
+ W=2u         
